US08232403B2
Potassium hydroxide (17.0 g, 0.30 mol) is added to EtOH (300 mL) solution of ethyl 4-[4-(benzyloxymethyl)cyclohexyl]-4-oxobutyrate (cis/trans=1/1, 33.0 g, 0.10 mol), and the mixture is stirred at 85° C. for 2 hours. After cooling to 0° C., 5N HCl is added to the mixture (to reach pH 2-3), the mixture is concentrated to remove ethanol. The crude mixture is extracted with EtOAc. The water layer is extracted with EtOAc, and the combined organic layer is washed with water and brine, dried over magnesium sulfate, and concentrated under reduced pressure to afford crude 4-[4-(benzyloxymethyl)cyclohexyl]-4-oxobutyric acid (cis/trans=ca. ⅙). The mixture of ether-hexane (ca. 1:4, 120 mL) is added to the resulting solid and sonicated. The crystal is collected by filtration, washed with small amount of ether-hexane (1:4) and dried to give trans-4-[4-(benzyloxymethyl)cyclohexyl]-4-oxobutyric acid as a pale yellow solid.

reactant | Potassium hydroxide | 0.30 mol, 17.0 g | [OH-].[K+]
reactant | ethyl 4-[4-(benzyloxymethyl)cyclohexyl]-4-oxobutyrate | 0.10 mol, 33.0 g | C(C1=CC=CC=C1)OCC1CCC(CC1)C(CCC(=O)OCC)=O | C20H28O4
reactant | HCl | 5N | Cl | ClH
solvent | EtOH | 300 mL | CCO | C2H6O
product | 4-[4-(benzyloxymethyl)cyclohexyl]-4-oxobutyric acid | C(C1=CC=CC=C1)OCC1CCC(CC1)C(CCC(=O)O)=O | C18H24O4
